*sweep
*.include "../sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "../../../models/corners/tt.spice"

* Gate bias
.param len = 0.15
X1 d g s VDD sky130_fd_pr__pfet_01v8  l={len} w=1 nf=1 mult=1

VDD VDD 0 1.8
vs s 0 1.8
vg g 0 1
vd d 0 0

.dc len 0.15 1.4 0.15
.save @m.X1.msky130_fd_pr__pfet_01v8[vth]
.control 

run
plot @m.X1.msky130_fd_pr__pfet_01v8[vth]
.endc
.end

*159u nf 1 mul 1 w 2u


