*sweep
.include "../models/corners/tt.spice"


.param len = 0.15
.param v_bulk = 1

X1 d g 0 b sky130_fd_pr__nfet_01v8  l={len} w=10 nf=1 mult=1

vb b 0 {v_bulk}
vg g 0 1
vd d 0 1.8
.end





