*sweep
.include "../models/corners/ff.spice"

.param len = 0.15
.param v_bulk = 1

X1 d g VDD b sky130_fd_pr__pfet_01v8  l=8 w=7 nf=1 mult=1


VDD VDD 0 DC 1.8
vb b 0 DC 1.8
vg g 0 DC 0.8
vd d 0 DC 0


.end





